US04496739
A mixture of cis-1,3-dibenzyl-2-oxoimidazolidine-4,5-dicarboxylic acid anhydride (70.0 g), 99.5% ethanol (16.6 g) and benzene (1000 ml) was heated under reflux for 2 hours. The reaction mixture (about 600 ml) was concentrated under ordinary pressure. The residue was stirred overnight with n-hexane (200 ml). Crystals produced were filtered and dried under reduced pressure to yield racemic cis-1,3-dibenzyl-5-ethoxycarbonyl-2-oxoimidazolidine-4-carboxylic acid (76.2 g), which were recrystallized from toluene. M.P. 110°-111° C.

reactant | cis-1,3-dibenzyl-2-oxoimidazolidine-4,5-dicarboxylic acid anhydride | 70.0 g | C(C1=CC=CC=C1)N1C(N([C@H]2[C@@H]1C(=O)OC2=O)CC2=CC=CC=C2)=O | C19H16N2O4
reactant | ethanol | 16.6 g | C(C)O | C2H6O
reactant | benzene | 1000 ml | C1=CC=CC=C1 | C6H6
product | racemic cis-1,3-dibenzyl-5-ethoxycarbonyl-2-oxoimidazolidine-4-carboxylic acid | 76.2 g | C(C1=CC=CC=C1)N1C(N([C@H]([C@H]1C(=O)OCC)C(=O)O)CC1=CC=CC=C1)=O | C21H22N2O5
